US04468399
Preparation of 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-[2-(3-pyridyl)ethyl]-4-pyrimidone.
Following the procedure of Example 12, a mixture of 1.29 g. of 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine and 1.37 g. of 2-methylthio-5-[2-(3-pyridyl)ethyl]-4-pyrimidone in 25 ml. of anhydrous pyridine was heated to refluxing temperature for about 4 days. The solvent was removed in vacuo. The residue was dissolved in ethanol and the ethanol evaporated. The residue was purified by high pressure liquid chromatography over silica using a gradient elution technique with an ethyl acetate/ethanol/ammonium hydroxide solvent system as the eluant. Fractions shown by tlc to contain the desired product were combined and the combined fractions rechromatographed on a silica preparative plate using 3% ammoniated ethanol as the solvent. 2-[2-(2-Dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-[2-(3-pyridyl)ethyl]-4-pyrimidone free base thus prepared was converted by standard procedures to the trihydrochloride salt which melted at 226°-228° C. after recrystallization from an ethanol/ethyl acetate/ether solvent mixture. Yield=1.0 g.

reactant | 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | 2-methylthio-5-[2-(3-pyridyl)ethyl]-4-pyrimidone | CSC1=NC=C(C(N1)=O)CCC=1C=NC=CC1 | C12H13N3OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-[2-(3-pyridyl)ethyl]-4-pyrimidone | CN(C)CC=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)CCC=1C=NC=CC1 | C20H26N6OS2
